US07253171B2
A solution of 2-nitrobenzoyl chloride (1.0 g, 5.4 mmol) in dichloromethane (1 ml) was added dropwise to a stirred solution of cyclohexylmethylamine (0.068 g, 6 mmol), triethylamine (1.12 ml, 8 mmol) and a catalytic amount of 4-dimethylaminopyridine in dichloromethane (4 ml) at 0° C. After 1 h at 0° C., the reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was diluted with dichloromethane and washed with hydrochloric acid 1N (10 ml), sodium hydroxide 2N (10 ml) and brine (10 ml). The organic layer was dried (MgSO4) and concentrated under reduced pressure to yield N-cyclohexyl-N-methyl-2-nitrobenzamide (1.05 g, 74%) that was used in the next step without further purification.

reactant | 2-nitrobenzoyl chloride | 5.4 mmol, 1.0 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | cyclohexylmethylamine | 6 mmol, 0.068 g | C1(CCCCC1)CN | C7H15N
reactant | triethylamine | 8 mmol, 1.12 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-cyclohexyl-N-methyl-2-nitrobenzamide | 1.05 g, 74% | C1(CCCCC1)N(C(C1=C(C=CC=C1)[N+](=O)[O-])=O)C | C14H18N2O3
